US04238487
C. Ethyl 2-(4-phthalimidobutyl)benzofuran-6-carboxylate
A solution of ethyl 2-(4-bromobutyl)benzofuran-6-carboxylate (3.25 g., 0.01 mole) and potassium phthalimide (2.04 g., 0.011 mole) in dimethylformamide (25 ml.) is stirred at 25°-27° C. for 18 hours. The solution is poured into water. The precipitated ethyl 2-(4-phthalimidobutyl)benzofuran-6-carboxylate is collected by filtration.

reactant | ethyl 2-(4-bromobutyl)benzofuran-6-carboxylate | 0.01 mole, 3.25 g | BrCCCCC=1OC2=C(C1)C=CC(=C2)C(=O)OCC | C15H17BrO3
reactant | potassium phthalimide | 0.011 mole, 2.04 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(4-phthalimidobutyl)benzofuran-6-carboxylate | C1(C=2C(C(N1CCCCC=1OC3=C(C1)C=CC(=C3)C(=O)OCC)=O)=CC=CC2)=O | C23H21NO5
